US05124327
Step C: 3-Phenylthio-2-phenylthiomethylindole
A suspension of sodium hydride (0.37 g 60% dispersion in oil, 9.4 mmol) in dimethylformamide (50 mL) was cooled to 0° C. 2-Phenylthiomethylindole (1.5 g, 6.3 mmol) was added portionwise, and the reaction stirred at 0° C. for 15 min. Phenyldisulfide (1.5 g, 6.9 mmol) was added and the reaction stirred at 20° C. for 6 h. The reaction was quenched with water and extracted with ethyl acetate. The organic extract was washed with water, saturated brine and dried over magnesium sulfate. Filtration and evaporation of solvent left an oil which was purified by medium pressure chromatography on silica gel using 5% ethyl acetate in hexane. The title compound was obtained as an oil. Anal. Calc. for C21H17NS2.H2O.0.15 C4H8O2 : C, 68.50; H, 5.33; N 3.60. Found: C, 68.40; H, 4.65; N, 3.86.

reactant | sodium hydride | 9.4 mmol, 0.37 g | [H-].[Na+]
reactant | 2-Phenylthiomethylindole | 6.3 mmol, 1.5 g | C1(=CC=CC=C1)SCC=1NC2=CC=CC=C2C1 | C15H13NS
reactant | Phenyldisulfide | 6.9 mmol, 1.5 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-Phenylthio-2-phenylthiomethylindole | C1(=CC=CC=C1)SC1=C(NC2=CC=CC=C12)CSC1=CC=CC=C1 | C21H17NS2
